US05192781
An equimolar mixture (19.6 mmol) of 2-chloro-1-(4-nitrophenyl)octan-3-one and thioacetamide is heated at 60° C. for 24 hours. After cooling to room temperature, the reaction mixture is concentrated and taken up in isopropyl ether to give 1.7 g of 2-methyl-5-(4-nitrobenzyl)-4-pentylthiazole, which is a pale yellow solid melting at 57° C.

reactant | 2-chloro-1-(4-nitrophenyl)octan-3-one | 19.6 mmol | ClC(CC1=CC=C(C=C1)[N+](=O)[O-])C(CCCCC)=O | C14H18ClNO3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 2-methyl-5-(4-nitrobenzyl)-4-pentylthiazole | 1.7 g | CC=1SC(=C(N1)CCCCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H20N2O2S
